US08003662B2
Step A: Preparation of N,N-diethyl-2-methylbut-3-yn-2-amine:
Prepared using methodology described by Zaragoza, F., et al. J. Med. Chem. 2004, 47, 2833. To a stirred mixture of diethylamine (10.3 mL, 99.6 mmol), 3-chloro-3-methylbut-1-yne (10.2 g, 99.6 mmol), triethylamine (16.7 mL, 119 mmol), and THF (100 mL) at 0° C. was added copper(I) chloride (0.986 g, 9.96 mmol). The resulting suspension was allowed to warm to room temperature, and stirring continued for 4 hours. The reaction mixture was partitioned between diethyl ether (250 mL) and a saturated aqueous solution of NaHCO3 (100 mL). The phases were separated, and the aqueous phase was re-extracted with diethyl ether (100 mL). The combined organic phases were dried (Na2SO4), filtered, and concentrated. The brown oil was distilled (105-110° C.) at atmospheric pressure under N2. The product was obtained as an oil (1.85 g, 9%). 1H NMR (400 MHz, CDCl3) δ 2.66 (q, J=7 Hz, 4H), 2.21 (s, 1H), 1.40 (s, 6H), 1.08 (t, J=7 Hz, 6H).

reactant | diethylamine | 99.6 mmol, 10.3 mL | C(C)NCC | C4H11N
reactant | 3-chloro-3-methylbut-1-yne | 99.6 mmol, 10.2 g | ClC(C#C)(C)C | C5H7Cl
reactant | triethylamine | 119 mmol, 16.7 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I) chloride | 9.96 mmol, 0.986 g | [Cu]Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-2-methylbut-3-yn-2-amine | 1.85 g, 9% | C(C)N(C(C)(C#C)C)CC | C9H17N
